US04921632
2.50 g of optically active 1-trifluoromethylheptyl ester of p-benzyloxybenzoic acid was dissolved into 50 ml of ethanol, and then hydrogenolyzed under an atmosphere of hydrogen using 0.5 g of 5% Pd/C (palladium/carbon). After separating Pd/C by filtration, ethanol was distilled off to obtain 1.73 g of optically active 1-trifluoromethylheptyl ester of p-hydroxybenzoic acid.

reactant | p-benzyloxybenzoic acid | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | p-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
